US05728835
4-(N-tert-Butoxycarbonyl-N-methylamino)methyl-N-(2-methoxyphenyl)benzamide
N-(2-Methoxyphenyl)-4-(methylamino)methylbenzamide (500 mg, 1.45 mmol) was dissolved in a dioxane-water (2:1) mixture solution (5 ml) to which, with cooling in an ice bath, were subsequently added 1N sodium hydroxide aqueous solution (2 ml) and di-tert-butyl dicarbonate (380 mg, 1.74 mmol). After 14 hours of stirring at room temperature, the resulting solution was extracted with methylene chloride, and thus obtained organic layer was washed with saturated brine and then dried on anhydrous sodium carbonate. Thereafter, the solvent was removed by evaporation, and the resulting residue was purified by subjecting it to a silica gel column chromatography (ethyl acetate:hexane=1:2) to obtain 537 mg (100%) of the title compound in the form of colorless oil.

reactant | N-(2-Methoxyphenyl)-4-(methylamino)methylbenzamide | 1.45 mmol, 500 mg | COC1=C(C=CC=C1)NC(C1=CC=C(C=C1)CNC)=O | C16H18N2O2
reactant | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 1.74 mmol, 380 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane water | O1CCOCC1.O
product | 4-(N-tert-Butoxycarbonyl-N-methylamino)methyl-N-(2-methoxyphenyl)benzamide | 537 mg, 100% | C(C)(C)(C)OC(=O)N(C)CC1=CC=C(C(=O)NC2=C(C=CC=C2)OC)C=C1 | C21H26N2O4
